### PR TITLE
[Merged by Bors] - feat(Data/Nat/MaxPrimeFac): add greatest prime factor

### PR DESCRIPTION
**Pull request by bocowgill**
This PR adds a computable greatest-prime-factor operation for natural numbers, `Nat.maxPrimeFac`, together with its basic API. It returns `0` at `0`, `1` at `1`, and the greatest prime factor for `n > 1`.

This work is adapted from [Formal Conjectures PR #4817](https://github.com/google-deepmind/formal-conjectures/pull/4817), where Yael Dillies [reviewed the implementation and suggested upstreaming it to mathlib](https://github.com/google-deepmind/formal-conjectures/pull/4817#pullrequestreview-4995500952).

---

## Verification

Verification passed for the changed module and tests, `lake exe mk_all`, the style and declaration linters, and `git diff --check`. Both declared imports were confirmed necessary by removing each in turn.

## AI assistance

I used OpenAI Codex while developing the original Formal Conjectures implementation and this mathlib port. Codex assisted with searching the existing API, generating and editing portions of the Lean proofs, adapting imports and documentation, separating the computational tests, replacing deprecated API usage, diagnosing elaboration errors, and running build, lint, and diff checks.

I reviewed every submitted declaration and understand the definitions, proofs, design choices, and attributes in this PR. I can explain and justify them independently.

The original Formal Conjectures implementation contained a substantial amount of LLM-generated code. This PR therefore carries the `LLM-generated` label.

### CODE REVIEW

**Comment by bocowgill** [comment]
LLM-generated

**Comment by bocowgill** [comment]
@YaelDillies: This is the mathlib port you invited from [Formal Conjectures #4817](https://github.com/google-deepmind/formal-conjectures/pull/4817). It intentionally remains close to the implementation you approved. CI is green. When convenient, I would welcome your review.

File: Mathlib/Data/Nat/MaxPrimeFac.lean [hunk 1]
```diff
@@ -0,0 +1,175 @@
...
+-/
+
+@[expose] public section
+
+namespace Nat
+
+/-- The greatest prime divisor of a natural number `n > 1`.
+
+Takes the junk value `0` for `n = 0` and `1` for `n = 1`. -/
+def maxPrimeFac (n : ℕ) : ℕ := if n = 1 then 1 else n.primeFactorsList.getLastI
```
Comment (SnirBroshi) [inline Mathlib/Data/Nat/MaxPrimeFac.lean]: I think this is equivalent and easier to work with
```suggestion
def maxPrimeFac (n : ℕ) : ℕ := n.primeFactorsList.getLastD n
```

File: Mathlib/Data/Nat/MaxPrimeFac.lean [hunk 2]
```diff
@@ -0,0 +1,175 @@
...
+
+@[simp]
+lemma maxPrimeFac_zero :
+    maxPrimeFac 0 = 0 := by
```
Comment (SnirBroshi) [inline Mathlib/Data/Nat/MaxPrimeFac.lean]:
```suggestion
lemma maxPrimeFac_zero : maxPrimeFac 0 = 0 := by
```

File: Mathlib/Data/Nat/MaxPrimeFac.lean [hunk 3]
```diff
@@ -0,0 +1,175 @@
...
+  simp [maxPrimeFac, List.getLastI]
+
+@[simp]
+lemma maxPrimeFac_one :
+    maxPrimeFac 1 = 1 := rfl
```
Comment (SnirBroshi) [inline Mathlib/Data/Nat/MaxPrimeFac.lean]:
```suggestion
lemma maxPrimeFac_one : maxPrimeFac 1 = 1 :=
  rfl
```

File: Mathlib/Data/Nat/MaxPrimeFac.lean [hunk 4]
```diff
@@ -0,0 +1,175 @@
...
+  have hlist : n.primeFactorsList ≠ [] := List.ne_nil_of_mem hmem
+  have hn_one : n ≠ 1 := ((primeFactorsList_ne_nil n).1 hlist).ne'
+  have hp_last : p ≤ n.primeFactorsList.getLast hlist :=
+    (primeFactorsList_sorted n).pairwise.rel_getLast hmem
+  simpa [maxPrimeFac, hn_one, List.getLastI_eq_getLast?_getD,
+    List.getLast?_eq_getLast_of_ne_nil hlist] using hp_last
+
+lemma maxPrimeFac_eq_of_dvd_of_le
+    (n p : ℕ) (hn : 0 < n) (hp : p.Prime) (h_dvd : p ∣ n) (h_le : maxPrimeFac n ≤ p) :
+    maxPrimeFac n = p := by
```
Comment (SnirBroshi) [inline Mathlib/Data/Nat/MaxPrimeFac.lean]:
```suggestion
lemma maxPrimeFac_eq_of_dvd_of_le (n p : ℕ) (hn : 0 < n) (hp : p.Prime) (h_dvd : p ∣ n)
    (h_le : maxPrimeFac n ≤ p) : maxPrimeFac n = p := by
```
and similarly everywhere else

File: MathlibTest/MaxPrimeFac.lean [hunk 5]
```diff
@@ -0,0 +1,8 @@
+import Mathlib.Data.Nat.MaxPrimeFac
```
Comment (SnirBroshi) [inline MathlibTest/MaxPrimeFac.lean]:
```suggestion
module

import Mathlib.Data.Nat.MaxPrimeFac
```

**Comment by SnirBroshi** [comment]
Welcome!

Could you elaborate on the choice of junk values, and add the reasons behind them to the module docstring?

About the name: we have `Nat.minFac`, so should this be called `maxFac`? or should we rename `minFac` to `minPrimeFac`? and maybe even expand the awkward "factor" abbrevation?

Also could you trim the description please? It looks AI generated and is a bit verbose.

**Comment by bocowgill** [comment]
Thanks for the review. I renamed the definition to `Nat.maxFac` to match `Nat.minFac`, documented the exceptional values and their rationale, and trimmed the PR description. Renaming `minFac` or expanding `Fac` seems like a broader API change, so I left that for a separate PR, but I’m happy to follow up if useful.

File: Mathlib/Data/Nat/MaxPrimeFac.lean (hunk 1 above)
Comment (bocowgill) [reply Mathlib/Data/Nat/MaxPrimeFac.lean]: Applied in [faae8395c2](https://github.com/leanprover-community/mathlib4/pull/43034/commits/faae8395c2d3ec5a627210d68ad32288e411404b). The renamed `Nat.maxFac` now uses `n.primeFactorsList.getLastD n`.

File: Mathlib/Data/Nat/MaxPrimeFac.lean (hunk 2 above)
Comment (bocowgill) [reply Mathlib/Data/Nat/MaxPrimeFac.lean]: Done in [faae8395c2](https://github.com/leanprover-community/mathlib4/pull/43034/commits/faae8395c2d3ec5a627210d68ad32288e411404b). Note that `maxFac_zero` now has the requested one-line declaration header.

File: Mathlib/Data/Nat/MaxPrimeFac.lean (hunk 3 above)
Comment (bocowgill) [reply Mathlib/Data/Nat/MaxPrimeFac.lean]: Addressed in [faae8395c2](https://github.com/leanprover-community/mathlib4/pull/43034/commits/faae8395c2d3ec5a627210d68ad32288e411404b). After the `getLastD` change, `rfl` no longer works here, so I used `by simp [maxFac]` and kept the declaration header on just one line.

File: Mathlib/Data/Nat/MaxPrimeFac.lean (hunk 4 above)
Comment (bocowgill) [reply Mathlib/Data/Nat/MaxPrimeFac.lean]: Done throughout the module in [faae8395c2](https://github.com/leanprover-community/mathlib4/pull/43034/commits/faae8395c2d3ec5a627210d68ad32288e411404b).

File: MathlibTest/MaxPrimeFac.lean (hunk 5 above)
Comment (bocowgill) [reply MathlibTest/MaxPrimeFac.lean]: I added the `module` header in [faae8395c2](https://github.com/leanprover-community/mathlib4/pull/43034/commits/faae8395c2d3ec5a627210d68ad32288e411404b). The import is marked `meta` because the `#guard`s evaluate `Nat.maxFac` at elaboration time.

**Comment by SnirBroshi** [comment]
Thanks! I prefer `Nat.maxPrimeFactor` but that should probably be discussed on Zulip.

About the junk values: Your explanation says that `maxFac n ≤ n` always holds and says that `maxFac 0 = 0` is chosed for the `sSup` lemma, but the `sSup` lemma assumes `n ≠ 1` so wouldn't this mean `maxFac 1 = 0` is a better choice by that reasoning, so that the `sSup` lemma would hold everywhere? Although then `maxFac n ∣ n` won't.

You also mention that `maxFac 1 = 1` "makes the multiplicative identity a fixed point". What does this mean exactly? It's a true statement, but why is it something we want?

**Comment by YaelDillies** [comment]
A minimal factor of a natural number is always a prime number when it exists. A maximal factor of a natural  number is always the natural number divided by some prime number. Therefore having the two definitions be called `minFac` and `maxPrimeFac` seems totally reasonable to me.

Please change the name back, as `maxFac` is mathematically incorrect as a name.

File: Mathlib/Data/Nat/MaxFac.lean [hunk 6]
```diff
@@ -0,0 +1,174 @@
...
+  match k, hk with
+  | k + 1, _ => by
+    by_cases hn : n = 0
+    · subst n
+      simp
+    induction k with
+    | zero => simp
+    | succ k ih =>
+        rw [pow_succ, maxFac_mul (pow_ne_zero _ hn) hn, ih (by omega)]
+        simp
```
Comment (YaelDillies) [inline Mathlib/Data/Nat/MaxFac.lean]:
```suggestion
lemma maxFac_pow : \forall {k : ℕ}, k ≠ 0 \r \forall n, maxFac (n ^ k) = maxFac n
  | k + 1, _, 0 => by simp
  | 1, _, n => by simp
  | k + 2, _, n + 1 => by rw [pow_succ, maxFac_mul (by positivity) (by lia), maxFac_pow (by lia)]; simp
```

**Review by YaelDillies — COMMENTED** [review]
Snir, the point is that we don't care about the `sSup` characterisation. We instead care about the `IsLeast` one, and no value of `maxPrimeFac` will make that one true at `n = 1`

File: Mathlib/Data/Nat/MaxFac.lean [hunk 7]
```diff
@@ -0,0 +1,174 @@
...
+/-- The greatest prime factor of a natural number is at most that number. -/
+lemma maxFac_le : ∀ {n : ℕ}, maxFac n ≤ n
+  | 0 => by simp
+  | 1 => by simp
+  | n + 2 => Nat.le_of_dvd (by omega) maxFac_dvd
+
+/-- The greatest prime factor of a natural number greater than one is the least upper bound of
+its prime factors. -/
+lemma isLeast_maxFac {n : ℕ} (hn : 1 < n) :
+    IsLeast (upperBounds {p : ℕ | p.Prime ∧ p ∣ n}) (maxFac n) := by
```
Comment (SnirBroshi) [inline Mathlib/Data/Nat/MaxFac.lean]:
```suggestion
lemma isLUB_maxFac {n : ℕ} (hn : 1 < n) : IsLUB {p : ℕ | p.Prime ∧ p ∣ n} n.maxFac := by
```

**Comment by SnirBroshi** [comment]
> We instead care about the `IsLeast` one, and no value of `maxPrimeFac` will make that one true at `n = 1`

If you're referring to `isLeast_maxFac`, then `maxPrimeFac 1 = 0` will make it true at `n = 1`.

There's no other `IsLeast` lemma in the PR; did you perhaps mean `IsGreatest n.primeFactors n.maxPrimeFac` rather than `IsLeast`, or am I missing something?

**Comment by YaelDillies** [comment]
No sorry, you are right, it would hold at `n = 1`. I still prefer the junk value of `maxPrimeFac 1 = 1`, because divisibility feels more important than LUBness, but I am not fussed

**Comment by SnirBroshi** [comment]
> divisibility feels more important than LUBness

I agree, but then what's the reason for `maxPrimeFac 0 = 0` rather than 1 or 2? Both preserve divisibility. I guess only 0 allows for `n.maxPrimeFac ≤ n` but that seems arbitrary.
Regardless, I think the reasoning should be documented in the module docstring.

**Comment by bocowgill** [comment]
> > divisibility feels more important than LUBness
> 
> I agree, but then what's the reason for `maxPrimeFac 0 = 0` rather than 1 or 2? Both preserve divisibility. I guess only 0 allows for `n.maxPrimeFac ≤ n` but that seems arbitrary. Regardless, I think the reasoning should be documented in the module docstring.

The two laws pin both values down if you take them together: `∣ n` is vacuous at `0` but forces `1` at `n = 1`, and `≤ n` forces `0` at `n = 0` but allows either at `n = 1`. So it's one rule — return `n` when the factor list is empty — rather than two independent choices, which is what `getLastD n` gives.

I'll document that, along with the `IsLUB`/divisibility tradeoff at `1`, and drop the "fixed point" line since it wasn't really an argument.

**Comment by bocowgill** [comment]
Separately, I started a Zulip thread on `maxPrimeFac` vs `maxPrimeFactor` [here](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/PR.20.2343034.3A.20maxPrimeFac.20vs.20maxPrimeFactor/near/618125511). No replies yet. Either way I'll restore a prime-specific name per Yael's point. Absent a preference for the longer spelling I'll go with `maxPrimeFac`.

File: Mathlib/Data/Nat/MaxFac.lean (hunk 6 above)
Comment (bocowgill) [reply Mathlib/Data/Nat/MaxFac.lean]: Applied in 7e73cc3ad6:

```lean
@[simp]
lemma maxPrimeFac_pow : ∀ {k : ℕ}, k ≠ 0 → ∀ n, maxPrimeFac (n ^ k) = maxPrimeFac n
  | k + 1, _, 0 => by simp
  | 1, _, n => by simp
  | k + 2, _, n + 1 => by
    rw [pow_succ, maxPrimeFac_mul (pow_ne_zero _ (by lia)) (by lia), maxPrimeFac_pow (by lia)]
    simp
```

Your three cases are exhaustive as written — the equation compiler discharges `k = 0` from `k ≠ 0` on its own, so no extra case was needed. The only substitution is `positivity`, which isn't in this file's import closure (just `Data.Nat.PrimeFin` and `Order.Lattice.Nat`), so I used `pow_ne_zero _ (by lia)` rather than adding a tactic
import.

File: Mathlib/Data/Nat/MaxFac.lean (hunk 7 above)
Comment (bocowgill) [reply Mathlib/Data/Nat/MaxFac.lean]: Applied in 7e73cc3ad6. I also added the `IsGreatest` form you asked about, since it's the stronger statement and the `IsLUB` one falls out of it:

```lean
lemma isGreatest_maxPrimeFac {n : ℕ} (hn : 1 < n) :
    IsGreatest {p : ℕ | p.Prime ∧ p ∣ n} (maxPrimeFac n) :=
  ⟨⟨prime_maxPrimeFac_of_one_lt n hn, maxPrimeFac_dvd⟩,
    fun _ hp => le_maxPrimeFac (zero_lt_of_lt hn).ne' hp.1 hp.2⟩

lemma isLUB_maxPrimeFac {n : ℕ} (hn : 1 < n) :
    IsLUB {p : ℕ | p.Prime ∧ p ∣ n} (maxPrimeFac n) :=
  (isGreatest_maxPrimeFac hn).isLUB
```

`maxPrimeFac_eq_sSup` now uses these directly, so the `have h_lub` coercion is gone. I kept the set as `{p : ℕ | p.Prime ∧ p ∣ n}` rather than `↑n.primeFactors` — under `1 < n` they agree, and it matches the form used in `maxPrimeFac_eq_sSup`.

**Comment by bocowgill** [comment]
7e73cc3ad6 is up and CI is green. This supersedes my earlier reply about `maxFac` — the name is now `Nat.maxPrimeFac`, per Yael's point that the maximal factor of `n` is `n` itself. Still no replies on the Zulip thread about the longer spelling; happy to rename if one appears.

The module docstring now carries the junk-value reasoning, including the `IsLUB`/divisibility tradeoff at `1`.

File: Mathlib/Data/Nat/MaxPrimeFac.lean [hunk 8]
```diff
@@ -0,0 +1,187 @@
...
+/-- Away from `n = 1`, the computable greatest prime factor agrees with its supremum
+characterization. -/
+lemma maxPrimeFac_eq_sSup {n : ℕ} (hn_one : n ≠ 1) :
+    maxPrimeFac n = sSup {p : ℕ | p.Prime ∧ p ∣ n} := by
+  obtain rfl | hn : n = 0 ∨ 1 < n := by lia
+  · simpa using (Set.Infinite.Nat.sSup_eq_zero infinite_setOfPred_prime).symm
+  · exact ((isLUB_maxPrimeFac hn).csSup_eq ⟨_, (isGreatest_maxPrimeFac hn).1⟩).symm
+
+@[simp]
+lemma one_lt_maxPrimeFac_iff (n : ℕ) : 1 < maxPrimeFac n ↔ 1 < n := by
```
Comment (YaelDillies) [inline Mathlib/Data/Nat/MaxPrimeFac.lean]: Iffs should usually have their arguments implicit
```suggestion
lemma one_lt_maxPrimeFac_iff {n : ℕ} : 1 < maxPrimeFac n ↔ 1 < n := by
```

File: Mathlib/Data/Nat/MaxPrimeFac.lean [hunk 9]
```diff
@@ -0,0 +1,187 @@
...
+  · have hle : 1 ≤ maxPrimeFac n := by
+      obtain rfl | hn_lt : n = 1 ∨ 1 < n := by lia
+      · simp
+      · exact (prime_maxPrimeFac_of_one_lt n hn_lt).one_lt.le
+    simp [hle]
+  obtain rfl | hn_lt : n = 1 ∨ 1 < n := by lia
+  · have hle : 1 ≤ maxPrimeFac m := (prime_maxPrimeFac_of_one_lt m hm_lt).one_lt.le
+    simp [hle]
+  have hmn_lt : 1 < m * n := Nat.one_lt_mul_iff.mpr
+    ⟨zero_lt_of_lt hm_lt, zero_lt_of_lt hn_lt, Or.inl hm_lt⟩
```
Comment (YaelDillies) [inline Mathlib/Data/Nat/MaxPrimeFac.lean]:
```suggestion
  have hmn_lt : 1 < m * n := one_lt_mul hm.le hn
```

File: Mathlib/Data/Nat/MaxPrimeFac.lean [hunk 10]
```diff
@@ -0,0 +1,187 @@
...
+  apply le_antisymm
+  · have hp : Prime (maxPrimeFac (m * n)) := prime_maxPrimeFac_of_one_lt (m * n) hmn_lt
```
Comment (YaelDillies) [inline Mathlib/Data/Nat/MaxPrimeFac.lean]: nit:
```suggestion
  · have hp : Prime (m * n).maxPrimeFac := prime_maxPrimeFac_of_one_lt (m * n) hmn_lt
```
Same below

File: Mathlib/Data/Nat/MaxPrimeFac.lean [hunk 11]
```diff
@@ -0,0 +1,187 @@
...
+  · simpa using (Set.Infinite.Nat.sSup_eq_zero infinite_setOfPred_prime).symm
+  · exact ((isLUB_maxPrimeFac hn).csSup_eq ⟨_, (isGreatest_maxPrimeFac hn).1⟩).symm
+
+@[simp]
+lemma one_lt_maxPrimeFac_iff (n : ℕ) : 1 < maxPrimeFac n ↔ 1 < n := by
+  rcases lt_trichotomy n 1 with hn | rfl | hn
+  · simp only [lt_one_iff] at hn
+    simp [hn]
+  · simp
+  · simpa [hn] using (prime_maxPrimeFac_of_one_lt n hn).one_lt
```
Comment (YaelDillies) [inline Mathlib/Data/Nat/MaxPrimeFac.lean]: Hopefully by now it should be clear that pattern-matching is a nice idiom for you to know
```suggestion
lemma one_lt_maxPrimeFac_iff : ∀ {n : ℕ}, 1 < maxPrimeFac n ↔ 1 < n
  | 0 => by simp
  | 1 => by simp
  | n + 2 => by simpa using (prime_maxPrimeFac_of_one_lt (n + 2) <| by lia).one_lt
```

File: Mathlib/Data/Nat/MaxPrimeFac.lean [hunk 12]
```diff
@@ -0,0 +1,187 @@
...
+`n.primeFactorsList` is empty. -/
+def maxPrimeFac (n : ℕ) : ℕ := n.primeFactorsList.getLastD n
+
+@[simp]
+lemma maxPrimeFac_zero : maxPrimeFac 0 = 0 := by
+  simp [maxPrimeFac]
+
+@[simp]
+lemma maxPrimeFac_one : maxPrimeFac 1 = 1 := by
+  simp [maxPrimeFac]
```
Comment (YaelDillies) [inline Mathlib/Data/Nat/MaxPrimeFac.lean]: This style is acceptable/even encouraged for series of similar lemmas
```suggestion
@[simp] lemma maxPrimeFac_zero : maxPrimeFac 0 = 0 := by simp [maxPrimeFac]
@[simp] lemma maxPrimeFac_one : maxPrimeFac 1 = 1 := by simp [maxPrimeFac]
```

File: Mathlib/Data/Nat/MaxPrimeFac.lean [hunk 13]
```diff
@@ -0,0 +1,187 @@
...
+
+lemma prime_maxPrimeFac_of_one_lt (n : ℕ) (h : 1 < n) : Prime (maxPrimeFac n) := by
```
Comment (YaelDillies) [inline Mathlib/Data/Nat/MaxPrimeFac.lean]:
```suggestion
lemma prime_maxPrimeFac_of_one_lt {n : ℕ} (h : 1 < n) : Prime n.maxPrimeFac := by
```

File: Mathlib/Data/Nat/MaxPrimeFac.lean [hunk 14]
```diff
@@ -0,0 +1,187 @@
...
+  have hn : n.primeFactorsList ≠ [] := (primeFactorsList_ne_nil n).2 h
+  have hmem : n.primeFactorsList.getLast hn ∈ n.primeFactorsList := List.getLast_mem hn
+  have hprime : Prime (n.primeFactorsList.getLast hn) := prime_of_mem_primeFactorsList hmem
+  simpa [maxPrimeFac, List.getLast?_eq_getLast_of_ne_nil hn] using hprime
```
Comment (YaelDillies) [inline Mathlib/Data/Nat/MaxPrimeFac.lean]:
```suggestion
  have : n.primeFactorsList ≠ [] := by simp; lia
  simpa [maxPrimeFac, List.getLast?_eq_getLast_of_ne_nil this]
    using prime_of_mem_primeFactorsList <| List.getLast_mem _
```

File: Mathlib/Data/Nat/MaxPrimeFac.lean [hunk 15]
```diff
@@ -0,0 +1,187 @@
...
+  | 1 => by simp
+  | n + 2 => by
+    have hn : 1 < n + 2 := by lia
+    have hlist : (n + 2).primeFactorsList ≠ [] :=
+      (primeFactorsList_ne_nil (n + 2)).2 hn
+    have hmem : (n + 2).primeFactorsList.getLast hlist ∈ (n + 2).primeFactorsList :=
+      List.getLast_mem hlist
+    have hdvd : (n + 2).primeFactorsList.getLast hlist ∣ n + 2 :=
+      dvd_of_mem_primeFactorsList hmem
+    simpa [maxPrimeFac, List.getLast?_eq_getLast_of_ne_nil hlist] using hdvd
```
Comment (YaelDillies) [inline Mathlib/Data/Nat/MaxPrimeFac.lean]:
```suggestion
    have : (n + 2).primeFactorsList ≠ [] := by simp
    simpa [maxPrimeFac, List.getLast?_eq_getLast_of_ne_nil this]
      using dvd_of_mem_primeFactorsList <| List.getLast_mem _
```

File: Mathlib/Data/Nat/MaxPrimeFac.lean [hunk 16]
```diff
@@ -0,0 +1,187 @@
...
+
+/-- Every prime factor of a nonzero natural number is at most its greatest prime factor. -/
+lemma le_maxPrimeFac {n p : ℕ} (hn : n ≠ 0) (hp : p.Prime) (h_dvd : p ∣ n) :
+    p ≤ maxPrimeFac n := by
+  have hmem : p ∈ n.primeFactorsList := (mem_primeFactorsList hn).2 ⟨hp, h_dvd⟩
+  have hlist : n.primeFactorsList ≠ [] := List.ne_nil_of_mem hmem
+  have hp_last : p ≤ n.primeFactorsList.getLast hlist :=
+    (primeFactorsList_sorted n).pairwise.rel_getLast hmem
+  simpa [maxPrimeFac, List.getLast?_eq_getLast_of_ne_nil hlist] using hp_last
```
Comment (YaelDillies) [inline Mathlib/Data/Nat/MaxPrimeFac.lean]:
```suggestion
  have := (mem_primeFactorsList hn).2 ⟨hp, h_dvd⟩
  simpa [maxPrimeFac, List.getLast?_eq_getLast_of_ne_nil <| List.ne_nil_of_mem this]
    using (primeFactorsList_sorted n).pairwise.rel_getLast this
```

File: Mathlib/Data/Nat/MaxPrimeFac.lean [hunk 17]
```diff
@@ -0,0 +1,184 @@
...
+/-- Away from `n = 1`, the computable greatest prime factor agrees with its supremum
+characterization. -/
+lemma maxPrimeFac_eq_sSup {n : ℕ} (hn_one : n ≠ 1) :
+    maxPrimeFac n = sSup {p : ℕ | p.Prime ∧ p ∣ n} := by
+  obtain rfl | hn : n = 0 ∨ 1 < n := by lia
+  · simpa using (Set.Infinite.Nat.sSup_eq_zero infinite_setOfPred_prime).symm
+  · exact ((isLUB_maxPrimeFac hn).csSup_eq ⟨_, (isGreatest_maxPrimeFac hn).1⟩).symm
+
+@[simp]
+lemma one_lt_maxPrimeFac_iff : ∀ {n : ℕ}, 1 < maxPrimeFac n ↔ 1 < n
```
Comment (YaelDillies) [inline Mathlib/Data/Nat/MaxPrimeFac.lean]:
```suggestion
@[simp]
lemma one_le_maxPrimeFac_iff : ∀ {n : ℕ}, 1 ≤ maxPrimeFac n ↔ 1 ≤ n
  | 0 => by simp
  | 1 => by simp
  | n + 2 => by simpa using (prime_maxPrimeFac_of_one_lt (n + 2) <| by lia).one_lt.le

@[simp]
lemma one_lt_maxPrimeFac_iff : ∀ {n : ℕ}, 1 < maxPrimeFac n ↔ 1 < n
```

File: Mathlib/Data/Nat/MaxPrimeFac.lean [hunk 18]
```diff
@@ -0,0 +1,184 @@
...
+    rcases hp.dvd_mul.mp maxPrimeFac_dvd with hpm | hpn
+    · exact (le_maxPrimeFac hm hp hpm).trans (le_max_left _ _)
+    · exact (le_maxPrimeFac hn hp hpn).trans (le_max_right _ _)
+  · apply max_le
+    · have hp : Prime m.maxPrimeFac := prime_maxPrimeFac_of_one_lt m hm_lt
+      apply le_maxPrimeFac (mul_ne_zero hm hn) hp
+      exact dvd_mul_of_dvd_left maxPrimeFac_dvd n
+    · have hp : Prime n.maxPrimeFac := prime_maxPrimeFac_of_one_lt n hn_lt
+      apply le_maxPrimeFac (mul_ne_zero hm hn) hp
+      exact dvd_mul_of_dvd_right maxPrimeFac_dvd m
```
Comment (YaelDillies) [inline Mathlib/Data/Nat/MaxPrimeFac.lean]:
```suggestion
lemma maxPrimeFac_le_iff (hn : 1 < n) : n.maxPrimeFac ≤ m ↔ ∀ p, p.Prime → p ∣ n → p ≤ m := by
  simp [isLUB_le_iff <| isLUB_maxPrimeFac hn, upperBounds]

/-- The greatest prime factor of a product of nonzero natural numbers is the maximum of their
greatest prime factors. -/
lemma maxPrimeFac_mul (hm : m ≠ 0) (hn : n ≠ 0) :
    maxPrimeFac (m * n) = max (maxPrimeFac m) (maxPrimeFac n) := by
  obtain rfl | hm : m = 1 ∨ 1 < m := by lia
  · simp
    lia
  obtain rfl | hn : n = 1 ∨ 1 < n := by lia
  · simp
    lia
  refine eq_of_forall_ge_iff fun c ↦ ?_
  simp +contextual [maxPrimeFac_le_iff, one_lt_mul'' hm hn, Nat.Prime.dvd_mul, or_imp, forall_and, *]
```
and can you please add `variable {m n : ℕ}` at the start of the section?

File: Mathlib/Data/Nat/MaxPrimeFac.lean (hunk 11 above)
Comment (bocowgill) [reply Mathlib/Data/Nat/MaxPrimeFac.lean]: Done

File: Mathlib/Data/Nat/MaxPrimeFac.lean (hunk 12 above)
Comment (bocowgill) [reply Mathlib/Data/Nat/MaxPrimeFac.lean]: Done

File: Mathlib/Data/Nat/MaxPrimeFac.lean (hunk 13 above)
Comment (bocowgill) [reply Mathlib/Data/Nat/MaxPrimeFac.lean]: Done

File: Mathlib/Data/Nat/MaxPrimeFac.lean (hunk 14 above)
Comment (bocowgill) [reply Mathlib/Data/Nat/MaxPrimeFac.lean]: Done

File: Mathlib/Data/Nat/MaxPrimeFac.lean (hunk 15 above)
Comment (bocowgill) [reply Mathlib/Data/Nat/MaxPrimeFac.lean]: Done

File: Mathlib/Data/Nat/MaxPrimeFac.lean (hunk 16 above)
Comment (bocowgill) [reply Mathlib/Data/Nat/MaxPrimeFac.lean]: Done

File: Mathlib/Data/Nat/MaxPrimeFac.lean (hunk 8 above)
Comment (bocowgill) [reply Mathlib/Data/Nat/MaxPrimeFac.lean]: Done

File: Mathlib/Data/Nat/MaxPrimeFac.lean (hunk 9 above)
Comment (bocowgill) [reply Mathlib/Data/Nat/MaxPrimeFac.lean]: Fixed. Note that `one_lt_mul` doesn't exist, but your later rewrite replaced that code.

File: Mathlib/Data/Nat/MaxPrimeFac.lean (hunk 10 above)
Comment (bocowgill) [reply Mathlib/Data/Nat/MaxPrimeFac.lean]: Fixed. Went to 5 sites, and the later edit deleted all of them.

File: Mathlib/Data/Nat/MaxPrimeFac.lean (hunk 17 above)
Comment (bocowgill) [reply Mathlib/Data/Nat/MaxPrimeFac.lean]: Done. But I moved it above `maxPrimeFac_mul` instead of next to `one_lt_maxPrimeFac_iff`.

File: Mathlib/Data/Nat/MaxPrimeFac.lean (hunk 18 above)
Comment (bocowgill) [reply Mathlib/Data/Nat/MaxPrimeFac.lean]: Done. Note adaptations: two lemma blocks lifted for ordering, and two lines wrapped.

**Comment by bocowgill** [comment]
-awaiting-author

File: Mathlib/Data/Nat/MaxPrimeFac.lean (hunk 13 above)
Comment (SnirBroshi) [reply Mathlib/Data/Nat/MaxPrimeFac.lean]: You can also do `n.maxPrimeFac.Prime`

Comment (bocowgill) [reply Mathlib/Data/Nat/MaxPrimeFac.lean]: Done, in f08e5e29bd.

**Comment by bocowgill** [comment]
@SnirBroshi Thanks for your help. The build, test, and lint checks passed but the post-build step failed. If possible, coud you re-run it? Thank you.

**Comment by YaelDillies** [comment]
When this happens, try merging master

File: Mathlib/Data/Nat/MaxPrimeFac.lean [hunk 19]
```diff
@@ -0,0 +1,170 @@
...
+Choosing `maxPrimeFac 1 = 0` instead would allow the `IsLUB` result below to extend to all
+nonzero inputs and would make `maxPrimeFac_eq_sSup` hold unconditionally, since no prime
+divides `1` and both `IsLUB ∅ 0` and `sSup ∅ = 0` hold in `ℕ`. That would cost
+`maxPrimeFac 1 ∣ 1`, and divisibility is the more useful of the two laws, so it is not taken.
+
+At `n = 0` the value does agree with `maxPrimeFac_eq_sSup`, but only because `ℕ`
+totalizes `sSup`: the prime divisors of zero are unbounded, so their supremum is `0` by
+convention rather than by being a genuine least upper bound.
+
+For `n > 1` the list `n.primeFactorsList` is nonempty, so the default is never used.
```
Comment (YaelDillies) [inline Mathlib/Data/Nat/MaxPrimeFac.lean]:
```suggestion
The list `n.primeFactorsList` is empty exactly when `n = 0` or `n = 1`. We choose the junk values
`maxPrimeFac 0 = 0` and `maxPrimeFac 1 = 1` so that:
* `maxPrimeFac n ≤ n` holds for all `n`. This forces `maxPrimeFac 0 = 0`.
* `maxPrimeFac n ∣ n` holds for all `n`. This forces `maxPrimeFac 1 = 1`.

Choosing `maxPrimeFac 1 = 0` instead would make `IsLUB {p : ℕ | p.Prime ∧ p ∣ n} (maxPrimeFac n)`
(but not `IsGreatest {p : ℕ | p.Prime ∧ p ∣ n} (maxPrimeFac n)`) hold for all `n ≠ 0` and would make
`maxPrimeFac_eq_sSup` hold unconditionally thanks to the junk value `sSup ∅ = 0` on `ℕ`.
```

File: Mathlib/Data/Nat/MaxPrimeFac.lean [hunk 20]
```diff
@@ -0,0 +1,170 @@
...
+
+lemma prime_maxPrimeFac_of_one_lt {n : ℕ} (h : 1 < n) : n.maxPrimeFac.Prime := by
+  have : n.primeFactorsList ≠ [] := by simp; lia
+  simpa [maxPrimeFac, List.getLast?_eq_getLast_of_ne_nil this]
+    using prime_of_mem_primeFactorsList <| List.getLast_mem _
+
+/-- The greatest prime factor of a natural number divides it. -/
+lemma maxPrimeFac_dvd : ∀ {n : ℕ}, maxPrimeFac n ∣ n
+  | 0 => by simp
+  | 1 => by simp
```
Comment (YaelDillies) [inline Mathlib/Data/Nat/MaxPrimeFac.lean]:
```suggestion
  | 0 | 1 => by simp
```
Same below a bunch of times

File: Mathlib/Data/Nat/MaxPrimeFac.lean [hunk 21]
```diff
@@ -0,0 +1,170 @@
...
+/-- The fixed points of `maxPrimeFac` are zero, one, and the primes. -/
+@[simp]
+lemma maxPrimeFac_eq_self_iff {n : ℕ} : maxPrimeFac n = n ↔ n ≤ 1 ∨ n.Prime := by
+  constructor
+  · intro h
+    by_cases hn : n ≤ 1
+    · exact Or.inl hn
+    · exact Or.inr <| h ▸ prime_maxPrimeFac_of_one_lt (lt_of_not_ge hn)
+  · rintro (hn | hn)
+    · obtain rfl | rfl := Nat.le_one_iff_eq_zero_or_eq_one.mp hn <;> simp
```
Comment (YaelDillies) [inline Mathlib/Data/Nat/MaxPrimeFac.lean]:
```suggestion
    · obtain rfl | rfl : n = 0 \or n = 1 := by lia <;> simp
```

File: Mathlib/Data/Nat/MaxPrimeFac.lean [hunk 22]
```diff
@@ -0,0 +1,170 @@
...
+
+/-- The fixed points of `maxPrimeFac` are zero, one, and the primes. -/
+@[simp]
+lemma maxPrimeFac_eq_self_iff {n : ℕ} : maxPrimeFac n = n ↔ n ≤ 1 ∨ n.Prime := by
+  constructor
+  · intro h
+    by_cases hn : n ≤ 1
+    · exact Or.inl hn
+    · exact Or.inr <| h ▸ prime_maxPrimeFac_of_one_lt (lt_of_not_ge hn)
+  · rintro (hn | hn)
```
Comment (YaelDillies) [inline Mathlib/Data/Nat/MaxPrimeFac.lean]: nit:

```suggestion
lemma maxPrimeFac_eq_self_iff {n : ℕ} : maxPrimeFac n = n ↔ n ≤ 1 ∨ n.Prime where
  mp h := by
    by_cases hn : n ≤ 1
    · exact Or.inl hn
    · exact Or.inr <| h ▸ prime_maxPrimeFac_of_one_lt (lt_of_not_ge hn)
  mpr := by
    rintro (hn | hn)
```

File: Mathlib/Data/Nat/MaxPrimeFac.lean [hunk 23]
```diff
@@ -0,0 +1,170 @@
...
+  refine eq_of_forall_ge_iff fun c ↦ ?_
+  simp +contextual [maxPrimeFac_le_iff, one_lt_mul'' hm hn, Nat.Prime.dvd_mul, or_imp,
+    forall_and, *]
+
+/-- The greatest prime factor of a power with nonzero exponent is the greatest prime factor of
+its base. -/
+@[simp]
+lemma maxPrimeFac_pow : ∀ {k : ℕ}, k ≠ 0 → ∀ n, maxPrimeFac (n ^ k) = maxPrimeFac n
+  | k + 1, _, 0 => by simp
+  | 1, _, n => by simp
```
Comment (YaelDillies) [inline Mathlib/Data/Nat/MaxPrimeFac.lean]: Here too:
```suggestion
  | k + 1, _, 0 | 1, _, n => by simp
```

File: Mathlib/Data/Nat/MaxPrimeFac.lean [hunk 24]
```diff
@@ -0,0 +1,170 @@
...
+/-- Every prime factor of a nonzero natural number is at most its greatest prime factor. -/
+lemma le_maxPrimeFac {n p : ℕ} (hn : n ≠ 0) (hp : p.Prime) (h_dvd : p ∣ n) :
+    p ≤ maxPrimeFac n := by
+  have := (mem_primeFactorsList hn).2 ⟨hp, h_dvd⟩
+  simpa [maxPrimeFac, List.getLast?_eq_getLast_of_ne_nil <| List.ne_nil_of_mem this]
+    using (primeFactorsList_sorted n).pairwise.rel_getLast this
+
+lemma maxPrimeFac_eq_of_dvd_of_le (n p : ℕ) (hn : 0 < n) (hp : p.Prime) (h_dvd : p ∣ n)
+    (h_le : maxPrimeFac n ≤ p) : maxPrimeFac n = p :=
+  le_antisymm h_le (le_maxPrimeFac hn.ne' hp h_dvd)
```
Comment (YaelDillies) [inline Mathlib/Data/Nat/MaxPrimeFac.lean]: I don't see the point of this lemma. Every assumption is used only once in a proof that is structurally easy to find

File: Mathlib/Data/Nat/MaxPrimeFac.lean [hunk 25]
```diff
@@ -0,0 +1,170 @@
...
+
+/-- The greatest prime factor of a prime is the prime itself. -/
+@[simp]
+lemma Prime.maxPrimeFac_eq_self {p : ℕ} (hp : p.Prime) : maxPrimeFac p = p := by
+  apply maxPrimeFac_eq_of_dvd_of_le p p hp.pos hp (dvd_refl p)
+  exact Nat.le_of_dvd hp.pos maxPrimeFac_dvd
+
+/-- The fixed points of `maxPrimeFac` are zero, one, and the primes. -/
+@[simp]
+lemma maxPrimeFac_eq_self_iff {n : ℕ} : maxPrimeFac n = n ↔ n ≤ 1 ∨ n.Prime := by
```
Comment (YaelDillies) [inline Mathlib/Data/Nat/MaxPrimeFac.lean]:
```suggestion
lemma maxPrimeFac_eq_self_iff : maxPrimeFac n = n ↔ n ≤ 1 ∨ n.Prime := by
```
Same everywhere else

File: Mathlib/Data/Nat/MaxPrimeFac.lean [hunk 26]
```diff
@@ -0,0 +1,170 @@
...
+  simpa [maxPrimeFac, List.getLast?_eq_getLast_of_ne_nil <| List.ne_nil_of_mem this]
+    using (primeFactorsList_sorted n).pairwise.rel_getLast this
+
+lemma maxPrimeFac_eq_of_dvd_of_le (n p : ℕ) (hn : 0 < n) (hp : p.Prime) (h_dvd : p ∣ n)
+    (h_le : maxPrimeFac n ≤ p) : maxPrimeFac n = p :=
+  le_antisymm h_le (le_maxPrimeFac hn.ne' hp h_dvd)
+
+/-- The greatest prime factor of a prime is the prime itself. -/
+@[simp]
+lemma Prime.maxPrimeFac_eq_self {p : ℕ} (hp : p.Prime) : maxPrimeFac p = p := by
```
Comment (YaelDillies) [inline Mathlib/Data/Nat/MaxPrimeFac.lean]: Can you move it to `variable` too?
```suggestion
lemma Prime.maxPrimeFac_eq_self  (hp : p.Prime) : maxPrimeFac p = p := by
```

File: Mathlib/Data/Nat/MaxPrimeFac.lean [hunk 27]
```diff
@@ -0,0 +1,170 @@
...
+  (isGreatest_maxPrimeFac hn).isLUB
+
+@[simp]
+lemma one_le_maxPrimeFac_iff : ∀ {n : ℕ}, 1 ≤ maxPrimeFac n ↔ 1 ≤ n
+  | 0 => by simp
+  | 1 => by simp
+  | n + 2 => by simpa using (prime_maxPrimeFac_of_one_lt <| by lia).one_lt.le
+
+lemma maxPrimeFac_le_iff (hn : 1 < n) :
+    n.maxPrimeFac ≤ m ↔ ∀ p, p.Prime → p ∣ n → p ≤ m := by
```
Comment (YaelDillies) [inline Mathlib/Data/Nat/MaxPrimeFac.lean]: This lemma needs to come just after the `IsLUB` one

File: Mathlib/Data/Nat/MaxPrimeFac.lean [hunk 28]
```diff
@@ -0,0 +1,170 @@
...
+    fun _ hp => le_maxPrimeFac (zero_lt_of_lt hn).ne' hp.1 hp.2⟩
+
+/-- The greatest prime factor of a natural number greater than one is the least upper bound of
+its prime factors. -/
+lemma isLUB_maxPrimeFac {n : ℕ} (hn : 1 < n) :
+    IsLUB {p : ℕ | p.Prime ∧ p ∣ n} (maxPrimeFac n) :=
+  (isGreatest_maxPrimeFac hn).isLUB
+
+@[simp]
+lemma one_le_maxPrimeFac_iff : ∀ {n : ℕ}, 1 ≤ maxPrimeFac n ↔ 1 ≤ n
```
Comment (YaelDillies) [inline Mathlib/Data/Nat/MaxPrimeFac.lean:82]: Can you move the `lt` version right after this lemma?

File: Mathlib/Data/Nat/MaxPrimeFac.lean [hunk 29]
```diff
@@ -0,0 +1,170 @@
...
+lemma isGreatest_maxPrimeFac {n : ℕ} (hn : 1 < n) :
+    IsGreatest {p : ℕ | p.Prime ∧ p ∣ n} (maxPrimeFac n) :=
+  ⟨⟨prime_maxPrimeFac_of_one_lt hn, maxPrimeFac_dvd⟩,
+    fun _ hp => le_maxPrimeFac (zero_lt_of_lt hn).ne' hp.1 hp.2⟩
+
+/-- The greatest prime factor of a natural number greater than one is the least upper bound of
+its prime factors. -/
+lemma isLUB_maxPrimeFac {n : ℕ} (hn : 1 < n) :
+    IsLUB {p : ℕ | p.Prime ∧ p ∣ n} (maxPrimeFac n) :=
+  (isGreatest_maxPrimeFac hn).isLUB
```
Comment (YaelDillies) [inline Mathlib/Data/Nat/MaxPrimeFac.lean:75]: These lemmas should come before `Prime.maxPrimeFac_eq_self`

File: Mathlib/Data/Nat/MaxPrimeFac.lean [hunk 30]
```diff
@@ -0,0 +1,147 @@
...
+/-- The greatest prime factor of a prime is the prime itself. -/
+@[simp]
+lemma Prime.maxPrimeFac_eq_self (hp : p.Prime) : maxPrimeFac p = p := by
+  apply le_antisymm
+  · exact Nat.le_of_dvd hp.pos maxPrimeFac_dvd
+  · exact le_maxPrimeFac hp.ne_zero hp (dvd_refl p)
+
+/-- The fixed points of `maxPrimeFac` are zero, one, and the primes. -/
+@[simp]
+lemma maxPrimeFac_eq_self_iff : maxPrimeFac n = n ↔ n ≤ 1 ∨ n.Prime where
```
Comment (YaelDillies) [inline Mathlib/Data/Nat/MaxPrimeFac.lean]: These should come after `maxPrimeFac_pow`

File: Mathlib/Data/Nat/MaxPrimeFac.lean (hunk 19 above)
Comment (bocowgill) [reply Mathlib/Data/Nat/MaxPrimeFac.lean]: Done in ada121bfa2.

File: Mathlib/Data/Nat/MaxPrimeFac.lean (hunk 20 above)
Comment (bocowgill) [reply Mathlib/Data/Nat/MaxPrimeFac.lean]: Done in ada121bfa2.

File: Mathlib/Data/Nat/MaxPrimeFac.lean (hunk 21 above)
Comment (bocowgill) [reply Mathlib/Data/Nat/MaxPrimeFac.lean]: Done in ada121bfa2.

File: Mathlib/Data/Nat/MaxPrimeFac.lean (hunk 22 above)
Comment (bocowgill) [reply Mathlib/Data/Nat/MaxPrimeFac.lean]: Done in ada121bfa2.

File: Mathlib/Data/Nat/MaxPrimeFac.lean (hunk 29 above)
Comment (bocowgill) [reply Mathlib/Data/Nat/MaxPrimeFac.lean:75]: Done in ada121bfa2.

File: Mathlib/Data/Nat/MaxPrimeFac.lean (hunk 28 above)
Comment (bocowgill) [reply Mathlib/Data/Nat/MaxPrimeFac.lean:82]: Done in ada121bfa2.

File: Mathlib/Data/Nat/MaxPrimeFac.lean (hunk 27 above)
Comment (bocowgill) [reply Mathlib/Data/Nat/MaxPrimeFac.lean]: Done in ada121bfa2.

File: Mathlib/Data/Nat/MaxPrimeFac.lean (hunk 26 above)
Comment (bocowgill) [reply Mathlib/Data/Nat/MaxPrimeFac.lean]: Done in ada121bfa2.

File: Mathlib/Data/Nat/MaxPrimeFac.lean (hunk 25 above)
Comment (bocowgill) [reply Mathlib/Data/Nat/MaxPrimeFac.lean]: Done in ada121bfa2.

File: Mathlib/Data/Nat/MaxPrimeFac.lean (hunk 24 above)
Comment (bocowgill) [reply Mathlib/Data/Nat/MaxPrimeFac.lean]: Removed in ada121bfa2.

File: Mathlib/Data/Nat/MaxPrimeFac.lean (hunk 23 above)
Comment (bocowgill) [reply Mathlib/Data/Nat/MaxPrimeFac.lean]: Done in ada121bfa2

File: Mathlib/Data/Nat/MaxPrimeFac.lean (hunk 30 above)
Comment (bocowgill) [reply Mathlib/Data/Nat/MaxPrimeFac.lean]: Fixed in 63146dc0b9.

**Comment by bocowgill** [comment]
-awaiting-author

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
